US05596002
N3 -(7-Chloro-quinolin-4-yl)-N1,N1 -dimethyl-propane-1,3-diamine
From 4,7-dichloroquinoline and 3-(N,N-dimethylamino)-propylamine; colourless crystals from ethyl acetate-hexane, m.p.: 111°-113° C.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 3-(N,N-dimethylamino)-propylamine | CN(C)CCCN | C5H14N2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (7-Chloro-quinolin-4-yl)-N1,N1 -dimethyl-propane-1,3-diamine | ClC1=CC=C2C(=CC=NC2=C1)C(CCN)N(C)C | C14H18ClN3
